US09163021B2
2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)propan-1-ol
To a solution of 2-(3-iodo-pyrrolo[3,2-c]pyridine-1-yl)-propionic acid methyl ester (Preparation 57, 18.1 g, 54.8 mmol) in EtOH (300 mL) was added 2M lithium borohydride solution in THF (63.1 mL, 126 mol) at 0° C. The reaction was stirred at this temperature for 30 minutes before warming to room temperature for 18 hours. The reaction was quenched by the addition of water (300 mL) at 0° C. with stirring for 1 hour. The EtOH was removed in vacuo and the resulting residue diluted further with water (600 mL) followed by extraction into 5% MeOH in DCM (250 mL). The organic layer was collected, dried over MgSO4 and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-5% MeOH in DCM to afford the title compound (12 g, 73%).

reactant | 2-(3-iodo-pyrrolo[3,2-c]pyridine-1-yl)-propionic acid methyl ester | 54.8 mmol, 18.1 g | COC(C(C)N1C=C(C=2C=NC=CC21)I)=O | C11H11IN2O2
reactant | lithium borohydride | 2M | [BH4-].[Li+]
reactant | THF | 126 mol, 63.1 mL | C1CCOC1 | C4H8O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 2-(3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)propan-1-ol | 12 g, 73% | IC1=CN(C2=C1C=NC=C2)C(CO)C | C10H11IN2O
